US08084469B2
4-Nitrophenyl thiomorpholine-4-carboxylate 1-oxide
13.1 g (49.0 mmol) of 4-nitrophenyl thiomorpholine-4-carboxylate were initially charged in 135 ml of dichloromethane and admixed at 0° C. with 7.6 g (44.1 mmol) of m-chloroperbenzoic acid in portions. The mixture was stirred at RT for two hours, water was added and the organic phase was removed. The organic phase was washed rapidly with saturated aqueous sodium hydrogencarbonate solution, filtered and concentrated under reduced pressure. The crude product was purified by means of preparative HPLC. Yield: 7.8 g (56% of theory)

reactant | 4-nitrophenyl thiomorpholine-4-carboxylate | 49.0 mmol, 13.1 g | N1(CCSCC1)C(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C11H12N2O4S
reactant | m-chloroperbenzoic acid | 44.1 mmol, 7.6 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | water | O | H2O
solvent | dichloromethane | 135 ml | ClCCl | CH2Cl2
product | 4-Nitrophenyl thiomorpholine-4-carboxylate 1-oxide | N1(CCS(CC1)=O)C(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C11H12N2O5S
